US08975415B2
To a solution of di-tert-butyl (6′-bromodispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl)imidodicarbonate (300 mg, 0.571 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (174 mg, 0.685 mmol), and PdCl2(dppf) (21 mg, 0.029 mmol) in dioxane (6 mL) was added potassium acetate (112 mg, 1.14 mmol). The mixture was stirred for 3 hours at 110° C. The resulting precipitate was removed by filtration and the filtrate was evaporated. Silicagel column chromatography (MeOH—CHCl3, a linear gradient of MeOH from 3 to 10%) afforded di-tert-butyl [6′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)dispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl]imidodicarbonate (305 mg).

reactant | di-tert-butyl (6′-bromodispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl)imidodicarbonate | 0.571 mmol, 300 mg | BrC=1C=C2C3(N=C(OC3)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C3(COC3)COC2=CC1 | C23H29BrN2O7
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 0.685 mmol, 174 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 1.14 mmol, 112 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.029 mmol, 21 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | di-tert-butyl [6′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)dispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl]imidodicarbonate | 305 mg | CC1(OB(OC1(C)C)C=1C=C2C3(N=C(OC3)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C3(COC3)COC2=CC1)C | C29H41BN2O9
